US09278981B2
Stage 205.2 5-Bromo-6-chloro-N-(3-fluoro-4-((trifluoromethyl)thio)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 185.2 using 5-bromo-6-chloro-nicotinic acid and 3-fluoro-4-trifluoromethylsulfanyl-aniline to afford a white crystalline solid. HPLC (Condition 4) tR=6.71 min, UPLC-MS (Condition 3) tR=1.34 min, m/z=429 [M−H]−.

reactant | 5-bromo-6-chloro-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 3-fluoro-4-trifluoromethylsulfanyl-aniline | FC=1C=C(N)C=CC1SC(F)(F)F | C7H5F4NS
product | 5-Bromo-6-chloro-N-(3-fluoro-4-((trifluoromethyl)thio)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC(=C(C=C2)SC(F)(F)F)F)C1)Cl | C13H6BrClF4N2OS
